US08227615B2
1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((2-methoxyphenyl)(pyrrolidin-1-yl)methyl)pyridin-2-yl)cyclopropanecarboxamide was prepared from (6-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)pyridin-3-yl)(2-methoxyphenyl)methyl methanesulfonate and pyrrolidine in a manner analogous to that of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((dimethylamino)(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide.

reactant | (6-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)pyridin-3-yl)(2-methoxyphenyl)methyl methanesulfonate | CS(=O)(=O)OC(C1=C(C=CC=C1)OC)C=1C=NC(=CC1)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C25H24N2O7S
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((dimethylamino)(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)C(C2=C(C=CC=C2)OC)N(C)C | C26H27N3O4
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((2-methoxyphenyl)(pyrrolidin-1-yl)methyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)C(N2CCCC2)C2=C(C=CC=C2)OC | C28H29N3O4
